US06737215B2
Synthesis of Methyl 2-Cyanoacrylate/Norbornene Copolymer
To a 35 ml pressure tube equipped with a Teflon coated stir bar and a threaded Teflon cap with O-ring was added MCA (2.17 g, 19.5 mmol), NB (1.83 g, 19.5 mmol), THF (4 g), AIBN (120 mg) and acetic acid (200 mg). The reaction mixture was deaerated with nitrogen at a flow rate of 30 ml/min for 15 minutes. The reaction vessel was then immediately capped tight using the Teflon screw cap. The vessel was placed in an oil-bath, which was preheated to 72° C. The reaction was allowed to proceed for three hours. The viscous reaction mass was cooled to room temperature and diluted with 20.5 ml of THF. The solution was poured dropwise into 75 ml of hexane while stirring. The white polymer was filtered, washed with hexane and dried overnight in a vacuum oven at 55° C. The yield of the isolated polymer was 76.6%. The polymer was found to have a molecular weight of 11617 (Mw) with PD of 1.86.

reactant | AIBN | 120 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | acetic acid | 200 mg | C(C)(=O)O | C2H4O2
reactant | hexane | 75 ml | CCCCCC | C6H14
reactant | THF | 20.5 ml | C1CCOC1 | C4H8O
reactant | THF | 4 g | C1CCOC1 | C4H8O
product | Methyl 2-Cyanoacrylate Norbornene | C(#N)C(C(=O)OC)=C.C12C=CC(CC1)C2 | InChI=1S/C7H10.C5H5NO2/c1-2-7-4-3-6(1)5-7;1-4(3-6)5(7)8-2/h1-2,6-7H,3-5H2;1H2,2H3
